US08476297B2
Step 3: 1-(4-Chlorophenyl)-N-(4-fluorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of 1-(4-chlorophenyl)-1,2,3,4-tetrahydroisoquinoline (150 mg, 615 μmol) in CH2Cl2 (2.0 mL) at RT was added 1-fluoro-4-isocyanatobenzene (85.8 μL, 739 μmol). The reaction was stirred 3 h and then directly purified by reverse phase HPLC to give the title compound as a white solid. MS (ESI pos. ion) m/z: 381 (M+1).

reactant | 1-(4-chlorophenyl)-1,2,3,4-tetrahydroisoquinoline | 615 μmol, 150 mg | ClC1=CC=C(C=C1)C1NCCC2=CC=CC=C12 | C15H14ClN
reactant | 1-fluoro-4-isocyanatobenzene | 739 μmol, 85.8 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Chlorophenyl)-N-(4-fluorophenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | ClC1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)F | C22H18ClFN2O
